US07994185B2
N-{5-[5-(2-{[2-(Ethyloxy)ethyl]amino}-4-pyrimidinyl)-2-(1-methylethyl)-1,3-thiazol-4-yl]-2-fluorophenyl}-2,6-difluorobenzenesulfonamide
Following a procedure analogous to the procedure described in Example 1 using N-{5-[5-(2-chloro-4-pyrimidinyl)-2-(1-methylethyl)-1,3-thiazol-4-yl]-2-fluorophenyl}-2,6-difluorobenzenesulfonamide (0.150 g, 0.286 mmol) and 2-ethoxyethylamine (0.5 mL, 4.77 mmol), the title compound was obtained (64 mg, 36% yield). 1H NMR (400 MHz, DMSO-d6) δ ppm 10.92 (s, 1H), 8.08 (d, J=5.1 Hz, 1H), 7.66-7.77 (m, 1H), 7.36-7.46 (m, 2H), 7.20-7.32 (m, 4H), 6.19 (s, 1H), 3.35-3.51 (m, 6H), 3.24-3.30 (m, 1H), 1.36 (d, J=6.9 Hz, 6H), 1.10 (q, J=6.7 Hz, 3H). MS (ESI): 578.2 [M+H]+.

reactant | N-{5-[5-(2-chloro-4-pyrimidinyl)-2-(1-methylethyl)-1,3-thiazol-4-yl]-2-fluorophenyl}-2,6-difluorobenzenesulfonamide | 0.286 mmol, 0.150 g | ClC1=NC=CC(=N1)C1=C(N=C(S1)C(C)C)C=1C=CC(=C(C1)NS(=O)(=O)C1=C(C=CC=C1F)F)F | C22H16ClF3N4O2S2
reactant | 2-ethoxyethylamine | 4.77 mmol, 0.5 mL | C(C)OCCN | C4H11NO
product | N-{5-[5-(2-{[2-(Ethyloxy)ethyl]amino}-4-pyrimidinyl)-2-(1-methylethyl)-1,3-thiazol-4-yl]-2-fluorophenyl}-2,6-difluorobenzenesulfonamide | 36% yield | C(C)OCCNC1=NC=CC(=N1)C1=C(N=C(S1)C(C)C)C=1C=CC(=C(C1)NS(=O)(=O)C1=C(C=CC=C1F)F)F | C26H26F3N5O3S2
